US09024051B2
N-t-butyldimethylsilyl-N-butyl-3-aminopropyltriethoxysilane
A flask equipped with a stirrer, reflux condenser, dropping funnel and thermometer was charged with 22.8 g (0.1 mol) of N-t-butyldimethylsilyl-N-butyl-N-allylamine and 0.07 g of a toluene solution of platinum/1,3-divinyl-1,1,3,3-tetramethyldisiloxane complex (Pt concentration 3 wt %) and heated at 50° C. Once the internal temperature became steady, 16.4 g (0.1 mol) of triethoxysilane was added dropwise over 1 hour. Stirring was continued at the temperature for a further 1 hour. The reaction solution was distilled, collecting 31.4 g of a fraction having a boiling point of 144-146° C./0.4 kPa.

reactant | N-t-butyldimethylsilyl-N-butyl-N-allylamine | 0.1 mol, 22.8 g | [Si](C)(C)(C(C)(C)C)N(CC=C)CCCC | C13H29NSi
reactant | triethoxysilane | 0.1 mol, 16.4 g | C(C)O[SiH](OCC)OCC | C6H16O3Si
catalyst | platinum 1,3-divinyl-1,1,3,3-tetramethyldisiloxane | [Pt].C(=C)[Si](O[Si](C)(C)C=C)(C)C
solvent | toluene | 0.07 g | C1(=CC=CC=C1)C | C7H8
product | N-t-butyldimethylsilyl-N-butyl-3-aminopropyltriethoxysilane | [Si](C)(C)(C(C)(C)C)N(CCC[Si](OCC)(OCC)OCC)CCCC | C19H45NO3Si2
